* source PCB_ASSIGN2
.EXTERNAL OUTPUT sumOut
.EXTERNAL OUTPUT cOutAdd
X_FA_U3B         N00208 FA_N00372 SUMOUT $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA_U1B         N00208 FA_N00372 FA_N00431 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA_U2A         FA_N00431 FA_N00455 COUTADD $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA_U1A         N00226 N00201 FA_N00455 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA_U3A         N00201 N00226 FA_N00372 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00226 IO_STM STIMULUS=cIn
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00208 IO_STM STIMULUS=aIn
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00201 IO_STM STIMULUS=bIn
