* source PCB_ASSIGN2
.EXTERNAL OUTPUT PORTLEFT-L
.EXTERNAL OUTPUT resOutTest
X_bitSlice_FA_U3B         N00317 bitSlice_FA_N00372 bitSlice_N00601 $G_DPWR
+  $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_FA_U1B         N00317 bitSlice_FA_N00372 bitSlice_FA_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_FA_U2A         bitSlice_FA_N00431 bitSlice_FA_N00455 PORTLEFT-L
+  $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_FA_U1A         N00329 bitSlice_N00776 bitSlice_FA_N00455 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_FA_U3A         bitSlice_N00776 N00329 bitSlice_FA_N00372 $G_DPWR
+  $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_U2A         N00313 N00288 bitSlice_N00776 $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_U4         0 0 N00302 N00295 bitSlice_N00764 bitSlice_N00625
+  bitSlice_N00601 0 0 0 0 0 RESOUTTEST M_UN0001 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_U3A         N00317 N00313 bitSlice_N00625 $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_bitSlice_U1A         N00317 N00313 bitSlice_N00764 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00313 IO_STM STIMULUS=bBitTest
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND N00295 IO_STM STIMULUS=op1Bit
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND N00288 IO_STM STIMULUS=op2Bit
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND N00302 IO_STM STIMULUS=op0Bit
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00329 IO_STM STIMULUS=cBitTest
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00317 IO_STM STIMULUS=aBitTest
