* source PCB_ASSIGN1
.EXTERNAL INPUT a
.EXTERNAL INPUT b
.EXTERNAL INPUT c_in
.EXTERNAL OUTPUT sum
.EXTERNAL OUTPUT c_out
X_U2B         C_IN B N00744 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A N00170 SUM $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         B C_IN N00170 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00737 N00744 C_OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         A N00170 N00737 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
