* source PCB_ASSIGN1
.EXTERNAL OUTPUT Sum
.EXTERNAL OUTPUT Cout
X_fullAdd_U1A         N00153 fullAdd_N00170 SUM $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_fullAdd_U3A         fullAdd_N00737 fullAdd_N00744 COUT $G_DPWR $G_DGND 7432
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_fullAdd_U2A         N00153 fullAdd_N00170 fullAdd_N00737 $G_DPWR $G_DGND 7408
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_fullAdd_U1B         N00166 N00146 fullAdd_N00170 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_fullAdd_U2B         N00146 N00166 fullAdd_N00744 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00146 IO_STM STIMULUS=Cin
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00153 IO_STM STIMULUS=a
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00166 IO_STM STIMULUS=b
