* source PCB_ASSIGN2
.EXTERNAL INPUT a_addIn
.EXTERNAL INPUT b_addIn
.EXTERNAL INPUT c_addIn
.EXTERNAL OUTPUT sum_addOut
.EXTERNAL OUTPUT c_addOut
X_U1A         C_ADDIN B_ADDIN N00455 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         A_ADDIN N00372 N00431 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00431 N00455 C_ADDOUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         B_ADDIN C_ADDIN N00372 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         A_ADDIN N00372 SUM_ADDOUT $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
