* source PCB_ASSIGN2
.EXTERNAL INPUT a1BitIn
.EXTERNAL OUTPUT res0BitOut
.EXTERNAL OUTPUT cBitOut
.EXTERNAL INPUT c0BitIn
.EXTERNAL INPUT a0BitIn
.EXTERNAL INPUT b1BitIn
.EXTERNAL INPUT less0
.EXTERNAL INPUT less1
.EXTERNAL OUTPUT res1BitOut
.EXTERNAL INPUT op0
.EXTERNAL INPUT op1
.EXTERNAL INPUT op2
.EXTERNAL INPUT b0BitIn
X_U1A         A0BITIN B0BITIN N01397 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         A0BITIN B0BITIN N01531 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4         0 0 OP0 OP1 N01397 N01531 N01571 LESS0 N03272 N03290 N03302 LESS1
+  RES0BITOUT RES1BITOUT $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         A1BITIN B1BITIN N03290 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         A1BITIN B1BITIN N03272 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         B1BITIN OP2 N02695 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA0_U1B         A0BITIN FA0_N00372 FA0_N00431 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA0_U3B         A0BITIN FA0_N00372 N01571 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA0_U2A         FA0_N00431 FA0_N00455 CINTERNAL $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA0_U3A         N01715 C0BITIN FA0_N00372 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA0_U1A         C0BITIN N01715 FA0_N00455 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         B0BITIN OP2 N01715 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA1_U1B         A1BITIN FA1_N00372 FA1_N00431 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA1_U3B         A1BITIN FA1_N00372 N03302 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA1_U2A         FA1_N00431 FA1_N00455 CBITOUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA1_U3A         N02695 CINTERNAL FA1_N00372 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA1_U1A         CINTERNAL N02695 FA1_N00455 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
