* source SIMPLEBOARD
.EXTERNAL INPUT a
.EXTERNAL INPUT b
.EXTERNAL INPUT cin
.EXTERNAL INPUT b2
.EXTERNAL INPUT b1
.EXTERNAL INPUT cin2
.EXTERNAL OUTPUT z1
.EXTERNAL OUTPUT z2
.EXTERNAL OUTPUT z3
.EXTERNAL OUTPUT z4
X_U1C         A B N00364 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N00364 CIN Z3 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00342 N00349 Z4 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         CIN N00364 N00342 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         B A N00349 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_R3         Z3 $G_DPWR $G_DGND PULLUP_1k PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_R4         Z4 $G_DPWR $G_DGND PULLUP_1k PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         B1 B2 N00994 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_R1         Z1 $G_DPWR $G_DGND PULLUP_1k PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         CIN2 N00994 N01138 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         B2 B1 N01186 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00994 CIN2 Z1 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_R2         Z2 $G_DPWR $G_DGND PULLUP_1k PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N01138 N01186 Z2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
